US08138377B2
G. Synthesis of N,N-dimethyl-5-(3,4-dichlorophenyl)bicyclo[3.1.0]hexan-2-amine hydrochloride
The mixture of 5-(3,4-dichlorophenyl)bicyclo[3.1.0]hexan-2-one (110 mg, 0.45 mmol) in DCE (3 mL) and dimethylamine (2M solution in THF, 5 mL, 4.5 mmol) was treated with sodium triacetoxyborohydride (95 mg, 0.45 mmol) at room temperature. The reaction mixture was stirred for 0.5 h, then the reaction mixture was diluted with saturated NaHCO3, extracted with CH2Cl2(3×), dried over K2CO3, filtered and concentrated in vacuo to afford the target compound. The oily crude residue (96 mg, 79%) was converted to HCl salt. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.11 (t, 1 H) 1.77-1.87 (m, 1 H) 1.96-2.02 (m, 1 H) 2.03-2.22 (m, 3 H) 2.25-2.37 (m, 1 H) 2.81 (d, 3 H) 2.92 (d, 3 H) 3.72-3.90 (m, 1 H) 6.96 (dd, 7 H) 7.21 (d, 7 H) 7.33 (d, 7 H) 12.07-12.30 (broad, 1 H), 13C NMR (126 MHz, CHLOROFORM-d) δ ppm 15.96 (s, 1 C) 24.22 (s, 1 C) 25.84 (s, 1 C) 31.02 (s, 1 C) 33.20 (s, 1 C) 42.65 (s, 1 C) 42.69 (s, 1 C) 69.75 (s, 1 C) 125.96 (s, 1 C) 128.61 (s, 1 C) 130.52 (s, 1 C) 130.57 (s, 1 C) 132.58 (s, 1C) 142.82 (s, 1 C). 13C NMR (400 MHz, CHLOROFORM-d) d ppm 15.96 (s, 1 C) 24.22 (s, 1 C) 25.84 (s, 1 C) 31.02 (s, 1 C) 33.20 (s, 1 C) 42.65 (s, 1 C) 42.69 (s, 1 C) 69.75 (s, 1 C) 125.96 (s, 1 C) 128.61 (s, 1 C) 130.52 (s, 1 C) 130.57 (s, 1 C) 132.58 (s, 1C) 142.82 (s, 1 C). MS (M+1) 270.

reactant | 5-(3,4-dichlorophenyl)bicyclo[3.1.0]hexan-2-one | 0.45 mmol, 110 mg | ClC=1C=C(C=CC1Cl)C12CCC(C2C1)=O | C12H10Cl2O
reactant | dimethylamine | 4.5 mmol, 2M, 5 mL | CNC | C2H7N
reactant | sodium triacetoxyborohydride | 0.45 mmol, 95 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | Cl | ClH
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N,N-dimethyl-5-(3,4-dichlorophenyl)bicyclo[3.1.0]hexan-2-amine hydrochloride | Cl.CN(C1C2CC2(CC1)C1=CC(=C(C=C1)Cl)Cl)C | InChI=1S/C14H17Cl2N.ClH/c1-17(2)13-5-6-14(8-10(13)14)9-3-4-11(15)12(16)7-9;/h3-4,7,10,13H,5-6,8H2,1-2H3;1H
